US07157579B2
To a mixture of 1.3 g of 2-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-(methylsulfonyl) acetamide, 0.21 g of acrolein and 20 ml of THF, 0.03 g of potassium t-butoxide was added at room temperature, and stirred for 3.5 hours. Then, 0.1 g of p-toluenesulsonic acid was added and the reaction mixture was refluxed under stirring for 4 hours. The reaction liquid was concentrated under reduced pressure and the residue was subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=1/1) to give 0.55 g of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3-(methylsulfonyl)-3,4-dihydro-1H-pyridin-2-one.

reactant | 2-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-2-(methylsulfonyl) acetamide | 1.3 g | ClC1=C(OC(C(=O)N)S(=O)(=O)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C15H12ClF4N3O6S
reactant | acrolein | 0.21 g | C(=O)C=C | C3H4O
reactant | potassium t-butoxide | 0.03 g | CC(C)([O-])C.[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3-(methylsulfonyl)-3,4-dihydro-1H-pyridin-2-one | 0.55 g | ClC1=C(OC2(C(NC=CC2)=O)S(=O)(=O)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C18H14ClF4N3O6S
